US07968570B2
4-Bromo-2,6-dimethylbenzoic acid
4-Bromo-2,6-dimethylbenzonitrile (4.0 g, 19 mmol) was stirred in MeOH (100 mL) and 5N NaOH (100 mL) at 100° C. for 12 hours. The reaction was cooled to room temperature and partitioned between CH2Cl2 and water and the organic layer was dried over anhydrous Na2SO4. The solvent was removed under reduced pressure and the resulting product was stirred in H2PO3 (20 mL) for 6 hours at 150° C. The reaction mixture was basified with 6M KOH, filtered and then acidified with 12M HCl. The reaction was partitioned between CH2Cl2 and water and the organic layer was dried over anhydrous Na2-SO4. The solvent was removed under reduced pressure to afford the product (2.81 g). 1H NMR (300 MHz, CDCl3): δ 7.22 (s, 2H), 6.17 (s, 1H), 5.67 (s, 1H), 2.36 (s, 6H).

reactant | 4-Bromo-2,6-dimethylbenzonitrile | 19 mmol, 4.0 g | BrC1=CC(=C(C#N)C(=C1)C)C | C9H8BrN
reactant | NaOH | 5N, 100 mL | [OH-].[Na+]
reactant | MeOH | 100 mL | CO | CH4O
product | 4-Bromo-2,6-dimethylbenzoic acid | 2.81 g | BrC1=CC(=C(C(=O)O)C(=C1)C)C | C9H9BrO2
